US05916922
To a solution of 10.0 g (65.8 mmoles) of 2-hydroxy-4-methoxybenzaldehyde in 50 mL of HOAc and 50 mL of concentrated HCl, was added 17.2 g (263.2 mg atoms) of powdered zinc. The mixture was heated one hour at 85-90° C. and then extracted three times between EtOAc and saturtated NaCl solution. The organic layer was washed with saturated NaHCO3, dried over Na2SO4, and evaporated under vacuum. The crude product was purified via silica gel flash chromatography (0 to 20% EtOAc in hexane), giving 2.0 g (22.0%) of 3-hydroxy-4-methylanisole as an oil which crystallized on standing, melting at 34-35° C.

reactant | 2-hydroxy-4-methoxybenzaldehyde | 65.8 mmoles, 10.0 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
solvent | HCl | 50 mL | Cl | ClH
catalyst | zinc | 17.2 g | [Zn] | Zn
product | 3-hydroxy-4-methylanisole | 2.0 g, 22.0% | OC=1C=C(C=CC1C)OC | C8H10O2
